US04310619
Synthesis of 1-(2,4,6-Trichlorophenyl)-3-{3-[2-(2,4-di-tert-amylphenoxy)butyramido]benzamido}-4-(4-methylpyrazolyl)-5-oxo-2-pyrazoline [Coupler (2)]
45 g of 1-(2,4,6-trichlorophenyl)-3-{3-[2-(2,4-di-tert-amylphenoxy)butyramido]benzamido}-4-bromo-5-oxo-2-pyrazoline and 19 g of 4-methylpyrazole were mixed with each other, then stirred for 2 hours under heating at 90° C. To the reaction mixture was added 500 ml of ethyl acetate, followed by washing several times with water. The ethyl acetate layer was dried with anhydrous sodium sulfate and concentrated. Upon crystallization of the residue from a solvent mixture of 100 ml of acetonitrile and 20 ml of benzene, 19 g of Coupler (2) was obtained. The melting point of the coupler was 142° to 145° C.

reactant | 1-(2,4,6-trichlorophenyl)-3-{3-[2-(2,4-di-tert-amylphenoxy)butyramido]benzamido}-4-bromo-5-oxo-2-pyrazoline | 45 g | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=C(C(C1=O)Br)NC(C1=CC(=CC=C1)NC(C(CC)OC1=C(C=C(C=C1)C(C)(C)CC)C(C)(C)CC)=O)=O | C36H40BrCl3N4O4
reactant | 4-methylpyrazole | 19 g | CC=1C=NNC1 | C4H6N2
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2,4,6-Trichlorophenyl)-3-{3-[2-(2,4-di-tert-amylphenoxy)butyramido]benzamido}-4-(4-methylpyrazolyl)-5-oxo-2-pyrazoline | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=C(C(C1=O)C1=NNC=C1C)NC(C1=CC(=CC=C1)NC(C(CC)OC1=C(C=C(C=C1)C(C)(C)CC)C(C)(C)CC)=O)=O | C40H45Cl3N6O4
